US05596106
Synthesis of [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thien-3-yl][4-trifluoromethylsulfonyloxyphenyl]methanone
A solution was prepared of 3 g (7.7 mmol) of [6-methoxy-2-(4-methoxyphenyl)benzo[b]thien-3-yl][4-hydroxyphenyl]methanone in 100 mL of methylene chloride and 1.57 g (15.5 mmol) of triethylamine. A solution of 2.8 g (7.72 mmol) of triflimide in 50 mL of methylene chloride was slowly added to the reaction mixture over a period of 30 minutes. The reaction, under an atmoshere of nitogen and at room temperature, was allowed to proceed for 16 hours. The reaction mixture was washed with 100 mL of 1N H2SO4, then three times with 100 mL portions of 2N NaOH and finally with 100 mL of water. The organic layer was dried with anhydrous Na2SO4 and the product allowed to crystallize out. This yielded 2.5 g of the title compound as a yellow solid.

reactant | [6-methoxy-2-(4-methoxyphenyl)benzo[b]thien-3-yl][4-hydroxyphenyl]methanone | 7.7 mmol, 3 g | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | triethylamine | 15.5 mmol, 1.57 g | C(C)N(CC)CC | C6H15N
reactant | triflimide | 7.72 mmol, 2.8 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thien-3-yl][4-trifluoromethylsulfonyloxyphenyl]methanone | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)C2=CC=C(C=C2)OC)C1 | C24H17F3O6S2
